US09422267B2
A suspension of (R)—N-(6-fluoropyridin-3-yl)-1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxamide (200 mg, 0.44 mmol) and sodium ethoxide (100 mg, 1.42 mmol) in ethanol (2 mL) was heated at 100° C. in a microwave for 1 h. The solvent was removed under reduced pressure and the residue was diluted with EtOAc (50 mL). The solution was washed with saturated sodium bicarbonate solution (20 mL) followed by brine (20 mL) and dried over anhydrous sodium sulfate. Removal of EtOAc under reduced pressure gave an oily residue that was purified by reverse phase HPLC followed by chiral HPLC to afford 4 mg of (R)—N-(6-ethoxypyridin-3-yl)-1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxamide. 1HNMR (400 MHz, CDCl3) δ (ppm): 1.18-1.32 (m, 6H), 1.38 (t, 3H), 1.90-2.20 (m, 5H), 2.60-2.77 (m, 3H), 2.84-2.98 (m, 3H), 3.60-3.79 (m, 2H), 4.28 (q, 2H), 4.78 (d, 1H), 6.40 (s, 1H), 6.62 (d, 1H), 6.70 (s, 1H), 7.85 (brs, 1H), 7.79 (s, 1H). The other enantiomer is prepared using the (S) starting material.

reactant | (R)—N-(6-fluoropyridin-3-yl)-1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxamide | 0.44 mmol, 200 mg | FC1=CC=C(C=N1)NC(=O)[C@@H]1N(CCC1)C=1N=C(C2=C(N1)CCC2)NC2=NNC(=C2)C(C)C | C23H27FN8O
reactant | sodium ethoxide | 1.42 mmol, 100 mg | [O-]CC.[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | (R)—N-(6-ethoxypyridin-3-yl)-1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxamide | 4 mg | C(C)OC1=CC=C(C=N1)NC(=O)[C@@H]1N(CCC1)C=1N=C(C2=C(N1)CCC2)NC2=NNC(=C2)C(C)C | C25H32N8O2
